US06710069B2
Preparation of 2-{[1-(Phenylsulfonyl)-1H-indole-4-Y]oxy}ethylamine
A mixture of 2-{[1-(phenylsulfonyl)-1H-indole-4-yl]oxy}ethylazide (3.3 g, 9.6 mmol) and triphenylphosphine (3.67 g, 14 mmol) in tetrahydrofuran and water is stirred under nitrogen for 24 hr at room temperature and filtered. The filtrate is concentrated in vacuo and the resultant residue is purified by flash chromatography (silica gel, EtOAc/MeOH/NH4OH: 8.5/1.5/0.05) to afford the title compound as an off-white solid, 2.54 g (80%), mp 71-73° C., identified by NMR and mass spectral analyses.

reactant | 2-{[1-(phenylsulfonyl)-1H-indole-4-yl]oxy}ethylazide | 9.6 mmol, 3.3 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)OCCN=[N+]=[N-] | C16H14N4O3S
reactant | triphenylphosphine | 14 mmol, 3.67 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-{[1-(Phenylsulfonyl)-1H-indole-4-Y]oxy}ethylamine | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)OCCN | C16H16N2O3S
